US07507740B2
(i) Production of 3-(2,2-dimethyl-1,3-dioxolan-4-yl)propan-1-ol
Pentane-1,2,5-triol (5.00 g) was dissolved in acetone (150 mL), 2,2-dimethoxypropane (10.5 mL) and 4-methylbenzenesulfonic acid (794 mg) were added, and the mixture was stirred at room temperature for 1.5 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→50:50) to give the title compound (3.79 g) as a colorless oil.

reactant | Pentane-1,2,5-triol | 5.00 g | C(C(CCCO)O)O | C5H12O3
reactant | 2,2-dimethoxypropane | 10.5 mL | COC(C)(C)OC | C5H12O2
reactant | 4-methylbenzenesulfonic acid | 794 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 3-(2,2-dimethyl-1,3-dioxolan-4-yl)propan-1-ol | 3.79 g | CC1(OCC(O1)CCCO)C | C8H16O3
